US09284284B2
k) {5-[3-(6-Bromo-benzo[d]isothiazol-3-ylamino)-phenyl]-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl}-carbamic acid tert-butyl ester
A solution of [5-(3-amino-phenyl)-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester (51 mg, 0.167 mmol) in THF (2 ml) was stirred at −78° C. under nitrogen. Butyllithium (1.6 M solution in hexanes, 0.26 ml, 0.418 mmol) was added at once. After 10 minutes a solution of 6-bromo-3-chloro-benzo[d]isothiazole (WO 2006091858, page 132; 52 mg, 0.209 mmol) in 0.4 ml THF was added rapidly. After stirring for 30 minutes the mixture was quenched with 5% aq. NH4Cl and warmed to rt. The mixture was extracted with EtOAc, and the organic phase was washed with brine, dried with Na2SO4 and evaporated under reduced pressure. The residue was purified by chromatography on silica gel (hexanes/20-35% EtOAc) to yield the title compound.

reactant | [5-(3-amino-phenyl)-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester | 0.167 mmol, 51 mg | C(C)(C)(C)OC(NC=1COCC(N1)(C)C1=CC(=CC=C1)N)=O | C16H23N3O3
reactant | Butyllithium | 0.418 mmol, 1.6 M, 0.26 ml | C(CCC)[Li]
reactant | 6-bromo-3-chloro-benzo[d]isothiazole | 0.209 mmol, 52 mg | BrC1=CC2=C(C(=NS2)Cl)C=C1 | C7H3BrClNS
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 0.4 ml | C1CCOC1 | C4H8O
product | {5-[3-(6-Bromo-benzo[d]isothiazol-3-ylamino)-phenyl]-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1COCC(N1)(C)C1=CC(=CC=C1)NC1=NSC2=C1C=CC(=C2)Br)=O | C23H25BrN4O3S
